US08895571B2
Step C: methyl 5-bromo-3-methylpyridine-2-carboxylate
To a solution 5-bromo-3-methylpyridine-2-carboxylic acid (2.6 g, 12 mmol) in N,N-dimethylformamide (20.0 mL) was added potassium carbonate (4.99 g, 36.1 mmol) and methyl iodide (1.50 mL, 24.1 mmol) and the reaction was stirred 80° C. for 40 min. The reaction mixture was partitioned with EtOAc and water. The organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated to afford 2.3 g (83% yield) of the desired product as a yellow solid.

reactant | 5-bromo-3-methylpyridine-2-carboxylic acid | 12 mmol, 2.6 g | BrC=1C=C(C(=NC1)C(=O)O)C | C7H6BrNO2
reactant | potassium carbonate | 36.1 mmol, 4.99 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 24.1 mmol, 1.50 mL | CI | CH3I
solvent | N,N-dimethylformamide | 20.0 mL | CN(C=O)C | C3H7NO
product | methyl 5-bromo-3-methylpyridine-2-carboxylate | 2.3 g, 83% yield | BrC=1C=C(C(=NC1)C(=O)OC)C | C8H8BrNO2
